US08008334B2
b) 4-(7,7-Dimethyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-8-yl)phenol
A solution of 3.30 mmol of 8-(4-methoxyphenyl)-7,7-dimethyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine in 50 ml of dichloromethane is admixed dropwise at 0-5° C. with 8.25 mmol of boron tribromide (1M solution in dichloromethane). The reaction solution is subsequently stirred at 0° C. for 1 hour, then admixed with saturated aqueous sodium hydrogen carbonate solution and extracted with dichloromethane (3×). The combined organic phases are dried over magnesium sulphate and evaporated. The residue is taken up in 0.5N NaOH and the mixture is extracted with ethyl acetate (3×). The combined organic phases are dried over magnesium sulphate and evaporated. The title compound is obtained as a beige solid and used without further purification for the next stage. Rt=4.91 (Gradient 1).

reactant | 8-(4-methoxyphenyl)-7,7-dimethyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | 3.30 mmol | COC1=CC=C(C=C1)C1C=2N(CCC1(C)C)C=NC2 | C16H20N2O
reactant | boron tribromide | 8.25 mmol, 1M | B(Br)(Br)Br | BBr3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-(7,7-Dimethyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-8-yl)phenol | CC1(C(C=2N(CC1)C=NC2)C2=CC=C(C=C2)O)C | C15H18N2O
